US04757153
N-[N-[(1,1-dimethylethoxy)carbonyl]-L-tyrosyl]-D-methionine, methyl ester
To Boc-tyrosine (16.9 g, 60 mmol) in 150 ml of methylene chloride (CH2Cl2) cooled to 0° C. under an argon (Ar) atmosphere were added 6.6 ml (60 mmol) of N-methylmorpholine (NMM). After cooling this vigorously stirred solution to -78° C., 7.9 ml (60 mmol) of isobutylchloroformate (IBCF) were added to this reaction. The mixture was allowed to warm to 20° C. before it was again cooled to -78° and another 7.9 ml (60 mmol) of NMM were added. (D)Methionine methyl ester hydrochloride (12.0 g, 60 mmol) was then added to the reaction in a single portion. The mixture was allowed to warm to room temperature and stir for an additional 18 hours (h). After filtering the reaction through diatomaceous earth, the filtrate was washed 3×100 ml 0.5N potassium bisulfate (KHSO4). The combined aqueous washed was extracted with CH2Cl2 (100 ml). The combined organic extracts were washed with 100 ml of brine, dried over sodium sulfate (Na2SO4) and stripped of all solvent under reduced pressure to produce the title product (25.1 g) as a light yellow glass. The material was used in subsequent reactions without further purification.

reactant | Boc-tyrosine | 60 mmol, 16.9 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | N-methylmorpholine | 60 mmol, 6.6 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 60 mmol, 7.9 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NMM | 60 mmol, 7.9 ml | CN1CCOCC1 | C5H11NO
reactant | (D)Methionine methyl ester hydrochloride | 60 mmol, 12.0 g | Cl.COC([C@H](N)CCSC)=O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[N-[(1,1-dimethylethoxy)carbonyl]-L-tyrosyl]-D-methionine, methyl ester | 25.1 g | CC(C)(OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)OC)C | C20H30N2O6S
